US04280831
3-Benzylthio-1,2,4-triazole
A solution of 30 g (0.29 m) 3-mercapto-1,2,4-triazole in 300 ml of dry methanol containing 16.0 g (0.29 m) sodium methoxide is stirred under dry conditions, cooled to 5° C. and benzylchloride 41.3 g (0.32 m) is added dropwise. Stir the mixture at room temperature overnight, reflux 2 hours, cool and evaporate to dryness. The residue is stirred in water and the product is extracted with ethyl acetate. Dry the ethyl acetate layer and evaporate to dryness to give white product. Recrystallize from toluene-hexane, white crystals, 41.4 g (73%), m.p. 79°-80° C.

reactant | 3-mercapto-1,2,4-triazole | 30 g | SC1=NNC=N1 | C2H3N3S
reactant | sodium methoxide | C[O-].[Na+]
reactant | benzylchloride | 41.3 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | methanol | 300 ml, 16.0 g | CO | CH4O
product | 3-Benzylthio-1,2,4-triazole | C(C1=CC=CC=C1)SC1=NNC=N1 | C9H9N3S
